US05426164
4-Trifluoroethenyloxybenzaldehyde:
Acetonitrile (300 ml) and granular zinc (30.0 g) are combined in a 1 liter round bottomed flask and stirred at 75° C. under nitrogen as 4-(2-bromotetrafluoroethoxy)benzaldehyde (111.39 g, 0.37 mole) is added slowly by dropping addition funnel. The resulting mixture is stirred and heated at 79° C. for 12 hours. After filtration to remove zinc salts and unreacted zinc, the acetonitrile is removed under vacuum on a rotary evaporator. The resulting oily residue is flash distilled on a rotary evaporator under high vacuum (26.6 Pa) to provide 47.33 g (0.234 mole) of a water white oil in 63.3 percent yield.

reactant | 4-(2-bromotetrafluoroethoxy)benzaldehyde | 0.37 mole, 111.39 g | BrC(C(OC1=CC=C(C=O)C=C1)(F)F)(F)F | C9H5BrF4O2
reactant | water | 0.234 mole, 47.33 g | O | H2O
catalyst | zinc | 30.0 g | [Zn] | Zn
solvent | Acetonitrile | 300 ml | C(C)#N | C2H3N
product | 4-Trifluoroethenyloxybenzaldehyde | 63.3 percent yield | FC(=C(F)F)OC1=CC=C(C=O)C=C1 | C9H5F3O2
